US05747518
1) 2-nitro-3-(4-tolyl)thiophene
A mixture of 0.8 g of 3-bromo-2-nitrothiophene, 0.52 g of 4-tolylboric acid, 5 ml of a 2M-aqueous potassium carbonate solution, 2.5 ml of ethanol and 30 ml of toluene was stirred at room temperature for 30 minutes in a nitrogen atmosphere. Successively 0.15 g of Pd(PPh3)4 was added and refluxed by heating for 7 hours. After separating into two layers, the organic layer was washed with water and dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain 0.56 g (70% yield) of the product as a yellow crystal. 1H-NMR(CDCl3, δ value):2.42(3H, s), 7.01(1H, d, J=5.1), 7.25(2H, d, J=8.1), 7.37(2H, d, J=8.1), 7.47(1H, d, J=5.1)

reactant | 3-bromo-2-nitrothiophene | 0.8 g | BrC1=C(SC=C1)[N+](=O)[O-] | C4H2BrNO2S
reactant | 4-tolylboric acid | 0.52 g | C1(=CC=C(C=C1)OB(O)O)C | C7H9BO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-nitro-3-(4-tolyl)thiophene | 0.56 g, 70% yield | [N+](=O)([O-])C=1SC=CC1C1=CC=C(C=C1)C | C11H9NO2S
